US05646310
1.1 g of tertiary-butoxy potassium and 2 ml of a dimethylformamide solution of 2 g of 2-cyanoethyl isothiocyanate were subsequently added to a mixture of 2.6 g of 6-pentafluoroethyl-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one and 28 ml of dimethylformamide while stirring at -5° C., followed by stirring at 5° C. for 15 hours. Then, 2N hydrochloric acid was added thereto, and the mixture was extracted with ether. After washing the organic layer with water and drying, the residue obtained by distilling off the solvent was purified by silica gel column chromatography (a developing solution, hexane:methylene chloride=1:2) to obtain 2.6 g of N-(2-cyanoethyl)-6-pentafluoroethyl-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbamide. 2.1 g of sodium cyanoborohydride was added to a mixture of 2.6 g of N-(2-cyanoethyl)-6-pentafluoroethyl-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbamide obtained above, 15 ml of acetic acid and 45 ml of tetrahydrofuran while ice-cooling and stirring, and the resulting mixture was stirred at room temperature for 13 hours. The mixture was diluted with ethyl acetate, and, after washing the organic layer with a saturated aqueous solution of sodium bicarbonate and water and drying, the solvent was distilled off to obtain 2.6 g of N-(2-cyanoethyl)-6-pentafluoroethyl-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbamide. Then, the product was added to 90 ml of pyridine and 3.4 g of tosyl chloride, and the mixture was heated while refluxing for 1 hour. After concentration under reduced pressure, water and concentrated hydrochloric acid were added thereto, followed by extracting with methylene chloride. After washing the organic layer with water and drying, the residue obtained by distilling off the solvent was purified by silica gel column chromatography (a developing solution, hexane:ethyl acetate=1:1) to obtain 460 mg of N-(2-cyanoethyl)-6-pentafluoroethyl-2,2-dimethyl-2H-1-benzopyran-4-carbamide having a melting point of 163°-164° C.

reactant | tertiary-butoxy potassium | 1.1 g | C(C)(C)(C)O[K]
reactant | 2-cyanoethyl isothiocyanate | 2 g | C(#N)CCN=C=S | C4H4N2S
reactant | 6-pentafluoroethyl-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one | 2.6 g | FC(C(F)(F)F)(C=1C=CC2=C(CC(C(O2)(C)C)=O)C1)F | C13H11F5O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethylformamide | 28 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(2-cyanoethyl)-6-pentafluoroethyl-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbamide | 2.6 g | C(#N)CCNC(=O)C1=C(C(OC2=C1C=C(C=C2)C(C(F)(F)F)(F)F)(C)C)O | C17H15F5N2O3
